US05270309
Treatment of ethyl 7-bromo-5-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylate with sodium hydroxide (0.247 g), as described in Example 1c, gave 7-bromo-5-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid, mp 278° C. (decomp.). δ (360 MHz, DMSO-d6) 1.14 (3H, t, CH3), 3.24 (2H, q, CH2), 6.55 (1H, s, 3-H), 7.22 (1H, d, 6-H), 8.02 (1H, d, 8-H) and 11.74 (1H, bs, NH).

reactant | ethyl 7-bromo-5-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylate | BrC1=CC(=C2C(C=C(NC2=C1)C(=O)OCC)=O)CC | C14H14BrNO3
reactant | sodium hydroxide | 0.247 g | [OH-].[Na+]
product | 7-bromo-5-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid | BrC1=CC(=C2C(C=C(NC2=C1)C(=O)O)=O)CC | C12H10BrNO3
